US07491737B2
To a hot (80° C.) solution of 4-(1H-pyrazol-4-yl)pyridine (4.8 g) in 2-propanol was added benzyl bromide (10 mL, 2.5 equiv.) and the resulting mixture heated at reflux for 10 minutes. After cooling in an ice bath, the precipitate was filtered and washed with more 2-propanol and air dried. The solid was suspended in ethanol at 0° C. and sodium borohydride (6.5 g) was added in several portions over 30 minutes, and the mixture was stirred for an additional 30 minutes. The reaction was quenched by carefully addition of water, and the ethanol was removed by evaporation, and the residue was partitioned between dichloromethane and water. The organic layer was dried over MgSO4, and filtrated and evaporation gives 1-benzyl-4-(1H-pyrazol-4-yl)-1,2,3,6-tetrahydropyridine (7.5 g)

reactant | 4-(1H-pyrazol-4-yl)pyridine | 4.8 g | N1N=CC(=C1)C1=CC=NC=C1 | C8H7N3
reactant | benzyl bromide | 10 mL, 2.5 equiv. | C(C1=CC=CC=C1)Br | C7H7Br
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-benzyl-4-(1H-pyrazol-4-yl)-1,2,3,6-tetrahydropyridine | 7.5 g | C(C1=CC=CC=C1)N1CCC(=CC1)C=1C=NNC1 | C15H17N3
